US06313126B1
3-[cis-4-[4-(1H-Indol-4-yl)-1-piperazinyl]cyclohexyl]-2-methyl-1H-indole
A solution of 4-(1H-indol-3-yl)-cyclohexanone (1.44 g, 6.33 mmol), 1-(indol-4-yl)piperazine (1.27 g, 6.33 mmol), sodium triacetoxyborohydride (1.88 g, 8.86 mmol) and acetic acid (0.76 mg, 12.6 mmol) in 1,2-dichloroethane (100 ml) was allowed to stir at room temperature overnight. The reaction was quenched with 1N sodium hydroxide (80 ml), extracted with methylene chloride (3×300 ml), and washed with brine (150 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. The solvent was removed under vacuum to afford an off-white solid. Trituration of the solid with warm methylene chloride (80 ml) followed by filtration afforded 0.88 g of white solid. The mother liquor was concentrated and chromatographed (2% methanol-methylene chloride) to afford another 0.18 g (total yield 40.7%) of product as a white solid: mp 279-280° C.

reactant | 4-(1H-indol-3-yl)-cyclohexanone | 6.33 mmol, 1.44 g | N1C=C(C2=CC=CC=C12)C1CCC(CC1)=O | C14H15NO
reactant | 1-(indol-4-yl)piperazine | 6.33 mmol, 1.27 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | sodium triacetoxyborohydride | 8.86 mmol, 1.88 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 12.6 mmol, 0.76 mg | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 3-[cis-4-[4-(1H-Indol-4-yl)-1-piperazinyl]cyclohexyl]-2-methyl-1H-indole | 0.88 g, yield 40.7% | N1C=CC2=C(C=CC=C12)N1CCN(CC1)[C@H]1CC[C@H](CC1)C1=C(NC2=CC=CC=C12)C | C27H32N4
